US04031093
1,6-Dihydro-6-oxo-2-(2-n-butoxyphenyl)pyrimidine-5-carboxylic acid
A mixture of ethyl 1,6-dihydro-6-oxo-2-(2-n-butoxyphenyl)pyrimidine-5-carboxylate (3.16 g., 0.01 mole), 1.0N sodium hydroxide (25 ml.), and 95% ethanol (10 ml.) was heated under reflux for 10 minutes. The hot solution was treated with charcoal and filtered. The filtrate was acidified with 1.0N hydrochloric acid (26 ml.) to precipitate the title compound (2.8 g., 97%), m.p. 163°-165°. Recrystallization from ethanol gave analytical product, m.p. 165°-166°.

reactant | ethyl 1,6-dihydro-6-oxo-2-(2-n-butoxyphenyl)pyrimidine-5-carboxylate | 0.01 mole, 3.16 g | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCCCC)C(=O)OCC | C17H20N2O4
reactant | sodium hydroxide | 1.0N, 25 ml | [OH-].[Na+]
reactant | charcoal | C | CH4
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1,6-Dihydro-6-oxo-2-(2-n-butoxyphenyl)pyrimidine-5-carboxylic acid | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCCCC)C(=O)O | C15H16N2O4
